US08809538B2
tert-Butyl (1-(5-(pyridin-2-yl)thiophen-2-ylsulfonyl)piperidin-4-yl)methylcarbamate
tert-Butyl piperidin-4-ylmethylcarbamate (0.100 g) in dichloromethane (2.3 mL) was treated with 5-(pyridin-2-yl)thiophene-2-sulfonyl chloride (0.133 g), followed by triethylamine (0.325 mL) at room temperature. After stirring the mixture at room temperature overnight, it was washed with 1N hydrochloric acid, the organic layer was separated and filtered. Evaporation of the solvent and purification by column chromatography on silica gel (1-4% methanol in dichloromethane) provide the title compound (0.088 g) having the following physical data.

reactant | tert-Butyl piperidin-4-ylmethylcarbamate | 0.100 g | N1CCC(CC1)CNC(OC(C)(C)C)=O | C11H22N2O2
reactant | 5-(pyridin-2-yl)thiophene-2-sulfonyl chloride | 0.133 g | N1=C(C=CC=C1)C1=CC=C(S1)S(=O)(=O)Cl | C9H6ClNO2S2
reactant | triethylamine | 0.325 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2.3 mL | ClCCl | CH2Cl2
product | tert-Butyl (1-(5-(pyridin-2-yl)thiophen-2-ylsulfonyl)piperidin-4-yl)methylcarbamate | 0.088 g | N1=C(C=CC=C1)C1=CC=C(S1)S(=O)(=O)N1CCC(CC1)CNC(OC(C)(C)C)=O | C20H27N3O4S2
